US05556860
Synthesis of 3-(1-ethylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
In similar way as in Preparation Example 31, the title compound was synthesized from 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone and ethyl iodide.

reactant | 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H21N3O
reactant | ethyl iodide | C(C)I | C2H5I
product | 3-(1-ethylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(C)N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C21H25N3O
